*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXF630ARA330MHA0G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXF630ARA330MHA0G_20deg-C 1 2

C1 4 2 2.46e-05
C2 5 2 3.15e-06
C3 6 2 1.44e-06
R1 3 4 1.80e-02
R2 4 5 4.86e-01
R3 5 6 6.96e+00
L1 1 3 3.70e-09

.ENDS
*$
